.subckt NOR3x1 a b c y vdd vss


xm01 n1 a vdd vdd sky130_fd_pr__pfet_01v8
+ l=0.15 w=8.8
+ as=2.64 ad=2.64
+ ps=18.20 pd=18.20

xm02 n2 b n1 n1 sky130_fd_pr__pfet_01v8
+ l=0.15 w=8.8
+ as=2.64 ad=2.64
+ ps=18.20 pd=18.20

xm03 y c n2 n2 sky130_fd_pr__pfet_01v8
+ l=0.15 w=8.8
+ as=2.64 ad=2.64
+ ps=18.20 pd=18.20



xm04 y a vss vss sky130_fd_pr__nfet_01v8
+ l=0.15 w=1.92
+ as=0.576 ad=0.576
+ ps=4.44 pd=4.44

xm05 y b vss vss sky130_fd_pr__nfet_01v8
+ l=0.15 w=1.92
+ as=0.576 ad=0.576
+ ps=4.44 pd=4.44

xm06 y c vss vss sky130_fd_pr__nfet_01v8
+ l=0.15 w=1.92
+ as=0.576 ad=0.576
+ ps=4.44 pd=4.44


.ends NOR3x1
